US07449223B2
17 g of 4-phenylphenol (0.1 mol) was dissolved in 120 mL of N,N-dimethylformamide (hereafter abbreviated as DMF), 15.2 g of potassium carbonate powder (0.11 mol) was added with constant stirring, and the mixture was then stirred for one hour while heating at 90° C. Subsequently, 6-chloro-1-hexanol (14.3 g, 0.11 mol) was added dropwise to the mixture, and the reaction was allowed to proceed for 12 hours under constant stirring. Following confirmation by gas chromatography that the peaks derived from the raw materials had disappeared, the reaction mixture was diluted with water, and the precipitated solid was recovered by filtration. The resulting solid was then recrystallized from ethanol, yielding 23 g of 4-(6-hydroxyhexyloxy)phenylbenzene (yield: 85%).

reactant | 4-phenylphenol | 0.1 mol, 17 g | C1(=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O
reactant | potassium carbonate | 0.11 mol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-1-hexanol | 0.11 mol, 14.3 g | ClCCCCCCO | C6H13ClO
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(6-hydroxyhexyloxy)phenylbenzene | 23 g, yield: 85% | OCCCCCCOC1=CC=C(C=C1)C1=CC=CC=C1 | C18H22O2
